US06770637B2
c) 6-(2-Amino-thiazol-4-yl)-N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-nicotinamide
A mixture of 73 mg (0.13 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-bromoacetyl-N-methyl-4-o-tolyl-nicotinamide and 12 mg (0.15 mmol) thiourea in 1 ml ethanol was heated at reflux for 30 min. After cooling to room temperature the solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate. Washing with 1 M aqueous sodium hydroxide solution was followed by extraction of the aqueous layer with three portions of ethyl acetate. The combined organic layers were dried with sodium sulfate and concentrated. Column chromatography afforded 62 mg (88%) of the title compound as a light orange solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-bromoacetyl-N-methyl-4-o-tolyl-nicotinamide | 0.13 mmol, 73 mg | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)C(CBr)=O)=O)C)C=C(C1)C(F)(F)F)(F)F | C25H19BrF6N2O2
reactant | thiourea | 0.15 mmol, 12 mg | NC(=S)N | CH4N2S
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-(2-Amino-thiazol-4-yl)-N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-nicotinamide | 62 mg, 88% | NC=1SC=C(N1)C1=NC=C(C(=O)N(C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C(=C1)C1=C(C=CC=C1)C | C26H20F6N4OS
